US08124606B2
Tert-butyl 4-(4-cyano-2,5-difluorophenyl)piperazine-1-carboxylate (20 mg, 0.062 mmol) was dissolved in ethanol (1 mL) and treated with water (0.2 mL) and 50% NaOH (0.2 mL, 2.500 mmol). The reaction mixture was stirred at 90° C. for 1 h, diluted with water (2 mL) and acidified with 1N HCl to pH<4. The solid was filtered, washed with water and dried in vacuum to afford 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-2,5-difluorobenzoic acid (21.0 mg, 0.061 mmol, 99% yield) as a white solid. ESI-MS: m/z 343 (M+H)−.

reactant | Tert-butyl 4-(4-cyano-2,5-difluorophenyl)piperazine-1-carboxylate | 0.062 mmol, 20 mg | C(#N)C1=CC(=C(C=C1F)N1CCN(CC1)C(=O)OC(C)(C)C)F | C16H19F2N3O2
reactant | NaOH | 2.500 mmol, 0.2 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | water | 0.2 mL | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-2,5-difluorobenzoic acid | 0.061 mmol, 21.0 mg, 99% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C(=O)O)C=C1F)F | C16H20F2N2O4
